US05629423
Alternatively, hydrogenation was run using a mixture of Raney nickel (10 g of slurry) and 5-(R)-acetoxy-1-ethoxyethoxy-2-hexyne (40 g, 0.17 mole) in ethanol (100 ml). The mixture was shaken with hydrogen gas (60 psi) on a Parr shaker for 5 hours. After filtration of the catalyst, the filtrate was evaporated under vacuum. Residual oil was dissolved in hexanes (100 ml) and the mixture was filtered to remove suspended particles. Evaporation of the solvent under reduced pressure provided 5-(R)-acetoxy-1-ethoxyethoxyhexane (40 g).

reactant | 5-(R)-acetoxy-1-ethoxyethoxy-2-hexyne | 0.17 mole, 40 g | C(C)(=O)O[C@@H](CC#CCOC(C)OCC)C | C12H20O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(R)-acetoxy-1-ethoxyethoxyhexane | 40 g | C(C)(=O)O[C@@H](CCCCOC(C)OCC)C | C12H24O4
